US04066675
Step A. Preparation of dimethyl 2-methylthioazelate
Methyl mercaptan (excess) is passed into a rapidly stirred solution of sodium methoxide (13.5 g., 0.25 mole) in dry methanol (200 ml.) at 0° C. to generate sodium methylmercaptide. The resulting solution is treated with dimethyl 2-bromoazelate (55.0 g., 0.186 mole), then stirred and heated at reflux under nitrogen for 5 hours. The reaction solution is concentrated in vacuo, diluted with ether and filtered. The filtrate is washed with water (until the washings are neutral), dried over sodium sulfate and distilled providing the title compound as a colorless liquid (28.4 g., 58%), bp 0.2 mm 128°-138° C.; pmr (CDCl3) δ 2.10 (s, 3H), 2.31 (t,2H), 3.20 (t,H), 3.63 (s,3H) and 3.71 (s, 3H).

reactant | Methyl mercaptan | CS | CH4S
reactant | sodium methoxide | 0.25 mole, 13.5 g | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | dimethyl 2-bromoazelate | 0.186 mole, 55.0 g | BrC(C(=O)OC)CCCCCCC(=O)OC | C11H19BrO4
solvent | methanol | 200 ml | CO | CH4O
product | dimethyl 2-methylthioazelate | 28.4 g, 58% | CC(C(=S)OC)CCCCCCC(=O)OC | C12H22O3S
